US04045578
Preparation of ethyl-60 -aminoisobutyrylglycinate hydrochloride: To a solution of 10.3 gms (0.10 mol) of α-aminoisobutyric acid in 210 ml of 98% formic acid at 0° C, there was added dropwise with stirring 70 ml of acetic anhydride. After stirring at room temperature for 2 hr., 85 ml of ice water was added and the solution evaporated under reduced pressure to give an off-white solid. Recrystallization from absolute ethanol gave 11.2 g (0.085 mol), 85%, N-formyl-α -aminoisobutyric acid, mp 129.5°-131° C; pmr (D2O) δ 1.50 (s, 6H), 4.06 (s, 2H) and 8.16 (s, 1H) ppm.

reactant | α-aminoisobutyric acid | 0.10 mol, 10.3 gms | NC(C(=O)O)(C)C | C4H9NO2
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 210 ml | C(=O)O | CH2O2
product | N-formyl-α -aminoisobutyric acid | C(=O)NC(C(=O)O)(C)C | C5H9NO3
